### PR TITLE
[Merged by Bors] - feat: If `s ≤ t` in colex, then `s \ {a} ≤ t \ {min t}` in colex

### PR DESCRIPTION
**Pull request by YaelDillies**
This proof is a horrible case bash. I have already spent a significant amount of time optimising it.

From LeanCamCombi

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/Colex.lean [hunk 1]
```diff
@@ -248,6 +249,40 @@ lemma toColex_sdiff_lt_toColex_sdiff (hus : u ⊆ s) (hut : u ⊆ t) :
  toColex (s \ t) < toColex (t \ s) ↔ toColex s < toColex t := by
   simpa using toColex_sdiff_lt_toColex_sdiff (inter_subset_left (s₁:=s)) inter_subset_right
 
+end DecidableEq
+
+lemma cons_le_cons (ha hb) : toColex (s.cons a ha) ≤ toColex (s.cons b hb) ↔ a ≤ b := by
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Colex.lean:254]:
```suggestion
@[simp] lemma cons_le_cons (ha hb) : toColex (s.cons a ha) ≤ toColex (s.cons b hb) ↔ a ≤ b := by
```

File: Mathlib/Combinatorics/Colex.lean [hunk 2]
```diff
@@ -248,6 +249,40 @@ lemma toColex_sdiff_lt_toColex_sdiff (hus : u ⊆ s) (hut : u ⊆ t) :
...
+  obtain rfl | hab := eq_or_ne a b
+  · simp
+  classical
+  rw [← toColex_sdiff_le_toColex_sdiff', cons_sdiff_cons hab, cons_sdiff_cons hab.symm,
+   singleton_le_singleton]
+
+lemma cons_lt_cons (ha hb) : toColex (s.cons a ha) < toColex (s.cons b hb) ↔ a < b :=
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Colex.lean:261]:
```suggestion
@[simp] lemma cons_lt_cons (ha hb) : toColex (s.cons a ha) < toColex (s.cons b hb) ↔ a < b :=
```

File: Mathlib/Combinatorics/Colex.lean [hunk 3]
```diff
@@ -319,6 +416,18 @@ lemma toColex_image_ofColex_strictMono (hf : StrictMono f) :
     StrictMono fun s ↦ toColex <| image f <| ofColex s :=
   fun _s _t ↦ (toColex_image_lt_toColex_image hf).2
 
+section Fintype
+variable [Fintype α]
+
+instance instBoundedOrder : BoundedOrder (Colex α) where
+  top := toColex univ
+  le_top _x := toColex_le_toColex_of_subset $ subset_univ _
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Colex.lean:424]:
```suggestion
  le_top _x := toColex_le_toColex_of_subset <| subset_univ _
```

File: Mathlib/Combinatorics/Colex.lean [hunk 4]
```diff
@@ -305,6 +340,68 @@ lemma lt_iff_max'_mem {s t : Colex α} :
...
+    have hau : a ∈ u := mem_u.2 ⟨hat, has, fun b hbs hbt ↦ (hm _ hbs hbt).trans hma⟩
+    exact hma.not_le $ le_max' _ _ hau
+  · rintro ⟨w, hwt, hws, hw⟩
+    refine ⟨w, hwt, hws, fun a has hat ↦ ?_⟩
+    by_contra! hwa
+    exact hat $ (hw $ hwa.lt_of_ne $ ne_of_mem_of_not_mem hwt hat).1 has
+
+lemma erase_le_erase_min' (hst : toColex s ≤ toColex t) (hcard : s.card ≤ t.card) (ha : a ∈ s) :
+    toColex (s.erase a) ≤
+      toColex (t.erase $ min' t $ card_pos.1 $ (card_pos.2 ⟨a, ha⟩).trans_le hcard) := by
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Colex.lean:363]: Some more dollars

File: Mathlib/Combinatorics/Colex.lean [hunk 5]
```diff
@@ -305,6 +340,68 @@ lemma lt_iff_max'_mem {s t : Colex α} :
...
+    refine ⟨m, hmt, hms, fun a hma ↦ ⟨fun has ↦ not_imp_comm.1 (hm _ has) hma.asymm, fun hat ↦ ?_⟩⟩
+    by_contra has
+    have hau : a ∈ u := mem_u.2 ⟨hat, has, fun b hbs hbt ↦ (hm _ hbs hbt).trans hma⟩
+    exact hma.not_le $ le_max' _ _ hau
+  · rintro ⟨w, hwt, hws, hw⟩
+    refine ⟨w, hwt, hws, fun a has hat ↦ ?_⟩
+    by_contra! hwa
+    exact hat $ (hw $ hwa.lt_of_ne $ ne_of_mem_of_not_mem hwt hat).1 has
+
+lemma erase_le_erase_min' (hst : toColex s ≤ toColex t) (hcard : s.card ≤ t.card) (ha : a ∈ s) :
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Colex.lean:361]: I think this could do with a docstring

File: Mathlib/Combinatorics/Colex.lean [hunk 6]
```diff
@@ -305,6 +340,68 @@ lemma lt_iff_max'_mem {s t : Colex α} :
     s < t ↔ ∃ h : s ≠ t, (ofColex s ∆ ofColex t).max' (max_mem_aux h) ∈ ofColex t := by
   rw [lt_iff_le_and_ne, le_iff_max'_mem]; aesop
 
+lemma lt_iff_exists_forall_lt_mem_iff_mem :
+    toColex s < toColex t ↔ ∃ w ∈ t, w ∉ s ∧ ∀ ⦃a⦄, w < a → (a ∈ s ↔ a ∈ t) := by
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Colex.lean:344]: Do you think the `∀ ⦃a⦄, w < a → (a ∈ s ↔ a ∈ t)` here would be better as `s.filter (w < .) = t.filter (w < .)`? Or even using
```suggestion
    toColex s < toColex t ↔ ∃ w ∈ t \ s, s.filter (w < .) = t.filter (w < .) := by
```

Comment (YaelDillies) [reply Mathlib/Combinatorics/Colex.lean:344]: I've tried your suggestion in https://github.com/YaelDillies/LeanCamCombi/blob/master/LeanCamCombi/Mathlib/Combinatorics/Colex.lean but somehow it makes everything more painful. It seems reasoning about colex really is done element-wise.

File: Mathlib/Combinatorics/Colex.lean [hunk 7]
```diff
@@ -358,9 +358,10 @@ lemma lt_iff_exists_forall_lt_mem_iff_mem :
     by_contra! hwa
     exact hat $ (hw $ hwa.lt_of_ne $ ne_of_mem_of_not_mem hwt hat).1 has
 
+/-- If `s ≤ t` in colex and `s.card ≤ t.card`, then `s \ {a} ≤ t \ {max t}` for any `a ∈ s`. -/
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Colex.lean:361]: Did you mean
```suggestion
/-- If `s ≤ t` in colex and `s.card ≤ t.card`, then `s \ {a} ≤ t \ {min t}` for any `a ∈ s`. -/
```

File: Mathlib/Combinatorics/Colex.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/Combinatorics/Colex.lean:344]: Did you mean to link to a different branch that contained this suggestion?

Comment (YaelDillies) [reply Mathlib/Combinatorics/Colex.lean:344]: No sorry, I only changed things in local because it was pretty clear pretty quickly that your approach wouldn't work

Comment (eric-wieser) [reply Mathlib/Combinatorics/Colex.lean:344]: Would a `s.filter P = t.filter P ↔ ∀ ⦃a⦄, P a → (a ∈ s ↔ a ∈ t)` lemma make my suggestion more pleasant? I just think it's easier to read, even if it doesn't help with proofs.

Comment (YaelDillies) [reply Mathlib/Combinatorics/Colex.lean:344]: Sure, I guess I can do that

Comment (semorrison) [reply Mathlib/Combinatorics/Colex.lean]: What's the status of this conversation?

Comment (YaelDillies) [reply Mathlib/Combinatorics/Colex.lean]: Sorry, forgot to resolve

**Comment by YaelDillies** [comment]
I should mention that @b-mehta claims to have a shorter proof of the titular result, but I haven't seen it yet. If you want my opinion, I think we shouldn't block on that since:
1. It's easy to golf a posteriori
2. This PR is a part of a long sequence towards the Kruskal-Katona theorem, and progress is slow enough already like that

File: Mathlib/Combinatorics/Colex.lean [hunk 8]
```diff
@@ -57,6 +57,13 @@ Related files are:
 colex, colexicographic, binary
 -/
 
+namespace Finset
+variable {α : Type*} {s t : Finset α} {p : α → Prop} [DecidablePred p]
+
+lemma filter_inj : s.filter p = t.filter p ↔ ∀ ⦃a⦄, p a → (a ∈ s ↔ a ∈ t) := by simp [ext_iff]
```
Comment (semorrison) [inline Mathlib/Combinatorics/Colex.lean:63]: This needs to be moved.

**Comment by semorrison** [comment]
bors d+

**Comment by YaelDillies** [comment]
Let's go! Kruskal-Katona is getting very near.

bors merge
